US04051248
1-Phenyl-8-[(cis-1,2,3,4-tetrahydro-1-hydroxy-6-methoxy-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]-decan-4-one
1-Phenyl-8-[(1,2,3,4-tetrahydro-6-methoxy-1-oxo-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]decan-4-one (5.4 g) dissolved in 60 ml of dry tetrahydrofuran is added dropwise to a flask charged with 2.1 equivalents of a 1 molar tetrahydrofuran solution of lithium tri-sec-butylborohydride which has been cooled to -78° C under an argon atmosphere. The resulting solution is stirred for 16 hours at room temperature. The reaction mixture is treated at 0° C with 15 ml of 3 molar sodium hydroxide followed by the addition of 15 ml of 30% hydrogen peroxide. The aqueous phase is saturated with potassium carbonate and the organic layer is separated and concentrated. The residue is dissolved in methylene chloride, washed with water, dried and concentrated producing the crude product. Two crystallizations of this material from absolute ethanol/methylene chloride yield 3.8 g of isomerically pure title compound, melting point 182°-183° C.

reactant | 1-Phenyl-8-[(1,2,3,4-tetrahydro-6-methoxy-1-oxo-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]decan-4-one | 5.4 g | C1(=CC=CC=C1)N1CNC(C12CCN(CC2)CC2C(C1=CC=C(C=C1CC2)OC)=O)=O | C25H29N3O3
reactant | lithium tri-sec-butylborohydride | C(C)(CC)[BH-](C(C)CC)C(C)CC.[Li+]
reactant | sodium hydroxide | 3 molar, 15 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 15 ml | OO | H2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 molar | O1CCCC1 | C4H8O
product | 1-Phenyl-8-[(cis-1,2,3,4-tetrahydro-1-hydroxy-6-methoxy-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]-decan-4-one | C1(=CC=CC=C1)N1CNC(C12CCN(CC2)C[C@@H]2[C@@H](C1=CC=C(C=C1CC2)OC)O)=O | C25H31N3O3
